US05482974
A solution of 1.3M s-butyl lithium in cyclohexane (244 mL, 317 mmol) is added to a dry-ice/acetone cooled solution of TMEDA (34 g, 293 mmol) in THF (250 mL), maintaining the internal reaction temperature <-70° C. The resulting reaction mixture is cooled and maintained at ≤-90° C. with an ether/liquid nitrogen bath while a solution of 1,2-dichloro-4-fluorobenzene (40 g, 244 mmol) in THF (100 mL) is added dropwise. The resulting reaction mixture is stirred with dry-ice/acetone cooling for 1h, then is cannulated into an ether/liquid nitrogen cooled and mechanically stirred solution of DMF (89.1 g, 1.22 mol) in THF (125 mL). The resulting mixture is warmed to -45° C. and partitioned between dilute aqueous HCl and ether. The organic solution is washed with aqueous NaHCO3, dried (MgSO4), and concentrated to afford 44.38 g of 2-fluoro-5,6-dichlorobenzaldehyde as an oil.

reactant | s-butyl lithium | 1.3M | C(C)(CC)[Li]
reactant | cyclohexane | 317 mmol, 244 mL | C1CCCCC1 | C6H12
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | TMEDA | 293 mmol, 34 g | CN(C)CCN(C)C | C6H16N2
reactant | 1,2-dichloro-4-fluorobenzene | 244 mmol, 40 g | ClC1=C(C=C(C=C1)F)Cl | C6H3Cl2F
reactant | DMF | 1.22 mol, 89.1 g | CN(C)C=O | C3H7NO
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-fluoro-5,6-dichlorobenzaldehyde | 44.38 g | FC1=C(C=O)C(=C(C=C1)Cl)Cl | C7H3Cl2FO
